US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-cyano-1,3-thiazol-2-yl)azetidine (2.36 g, 5.62 mmol) (obtained as described in Reference Example 4(1)) in anhydrous tetrahydrofuran (115 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (6.7 ml, 6.7 mmol) in an ice bath. The mixture was stirred in the ice bath for 1 hour. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:ethyl acetate (1:2) as the eluant to afford 1-(4-cyano-1,3-thiazol-2-yl)-3-hydroxyazetidine (0.78 g, yield 77%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-cyano-1,3-thiazol-2-yl)azetidine | 5.62 mmol, 2.36 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C#N | C23H25N3OSSi
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 115 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.7 mmol, 6.7 ml | O1CCCC1 | C4H8O
product | 1-(4-cyano-1,3-thiazol-2-yl)-3-hydroxyazetidine | 0.78 g, yield 77% | C(#N)C=1N=C(SC1)N1CC(C1)O | C7H7N3OS
